### PR TITLE
feat: generalize `tangentConeAt.lim_zero` to TVS

### PR DESCRIPTION
**Pull request by eric-wieser**
... and then adjust the `variable`s down the rest of the file to make use of the generality.

There are two key lemmas that this does not generalize, which would probably unlock the rest of the file:

* `subset_tangentCone_prod_left` (and `_right`)
* `zero_mem_tangentCone`

---

- [ ] depends on: #20859

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/TangentCone.lean [hunk 1]
```diff
@@ -140,6 +147,14 @@ theorem tangentCone_congr (h : 𝓝[s] x = 𝓝[t] x) : tangentConeAt 𝕜 s x =
...
+end TVS
+
+section Normed
+variable [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+variable [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+variable [NormedAddCommGroup G] [NormedSpace ℝ G]
+variable {x y : E} {s t : Set E}
+
 /-- The tangent cone of a product contains the tangent cone of its left factor. -/
 theorem subset_tangentCone_prod_left {t : Set F} {y : F} (ht : y ∈ closure t) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/TangentCone.lean:159]: This then becomes the last generalization to resolve in this file.

File: Mathlib/Analysis/Calculus/TangentCone.lean [hunk 2]
```diff
@@ -98,30 +100,35 @@ theorem tangentCone_mono (h : s ⊆ t) : tangentConeAt 𝕜 s x ⊆ tangentConeA
...
+    Filter.tendsto_inv₀_cobounded'.comp hc''
+  replace hc : Tendsto (fun n => (c n)⁻¹) l (𝓝 0) := hc'.mono_right nhdsWithin_le_nhds
+  have B := hc.smul hd
+  rw [zero_smul] at B
+  refine B.congr' ?_
+  refine .inv_smul_smul_cancel ?_
+  refine hc''.mono_right ?_
+  simp only [le_principal_iff]
+  rw [← Bornology.isCobounded_def]
+  simp
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/TangentCone.lean:129]: @ADedecker, I was pretty clumsy provint this; can you see a shorter way?

Comment (ADedecker) [reply Mathlib/Analysis/Calculus/TangentCone.lean:129]:
```suggestion
  rw [tendsto_norm_atTop_iff_cobounded] at hc
  have : ∀ᶠ n in l, (c n)⁻¹ • (c n) • d n = d n := by
    filter_upwards [hc.eventually_ne_cobounded 0] with n hn using inv_smul_smul₀ hn _
  simpa only [← tendsto_congr' this, zero_smul] using tendsto_inv₀_cobounded.comp hc |>.smul hd
```

File: Mathlib/Analysis/Calculus/TangentCone.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Analysis/Calculus/TangentCone.lean:159]: This (the rest of the proof, not what you've written) does not seem obvious to me. I need to think about it. One issue is the hardcoded countability in the definition of the tangent code.

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/TangentCone.lean:143]: Note that I'd be very happy to postpone generalizing this lemma to a later PR; I think the generalization you helped with with that's already in this diff is enough to unlock a lot of basic `deriv` results.

File: Mathlib/Analysis/Calculus/TangentCone.lean [hunk 3]
```diff
@@ -218,6 +225,13 @@ theorem mem_tangentCone_of_segment_subset {s : Set G} {x y : G} (h : segment ℝ
...
 
+end TVS
+
+section Normed
+variable [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+variable [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+variable [NormedAddCommGroup G] [NormedSpace ℝ G]
+variable {x y : E} {s t : Set E}
 /-- The tangent cone at a non-isolated point contains `0`. -/
 theorem zero_mem_tangentCone {s : Set E} {x : E} (hx : (𝓝[s \ {x}] x).NeBot) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/TangentCone.lean:236]: This is the other proof in need of generalization

**Comment by ADedecker** [comment]
If you want to add it somewhere (maybe not in the code but in some issue), I would expect the following definition to at least eliminate the countability issues:

```lean
open scoped Pointwise in
open Bornology in
def tangentConeAt' (s : Set E) (x : E) : Set E :=
  let 𝓓 : Filter E := 𝓟 ((x + ·) ⁻¹' s)
  let 𝓒 : Filter 𝕜 := Bornology.cobounded 𝕜
  { y : E | ClusterPt y (𝓒 • 𝓓) }
```

The right question I think is: does this work nicely for polynormed spaces, that is spaces whose topology is defined by a family of seminorms (in the real or complex case this is the same as locally convex, but it also covers a bunch of important things about the p-adic case).

**Comment by urkud** [comment]
It's exactly the same definition. The only difference is that I inlined `let`s. I'll try to migrate to this definition tonight after hours.

**Comment by urkud** [comment]
UPD: I'm thinking about some other definitions that may play better in case of a TVS without a first countable topology. More on this tomorrow.

**Comment by j-loreaux** [comment]
What's the current status of this PR @eric-wieser and @urkud ? It seems like it shouldn't be on the queue.

**Comment by urkud** [comment]
I'm working on redefining the tangent cone when I have time. This one shouldn't be on the queue.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
